US04481142
9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine
In five equal portions 5.5 g (58 mmole) of acetamidine hydrochloride and 15 ml (62 mmole) of a 4.12 M methanol solution of sodium methoxide was added over 3 hr. to a solution of 3.5 g (10 mmole) of 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one in 140 ml of methanol and 140 ml of methylene chloride. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was washed with water dried with anhydrous sodium sulfate, and concentrated at reduced pressure to give an amber oil. The amber oil was dissolved in 10 ml (10 mmole) of a 1 M methanol solution of methanesulfonic acid and the resulting salt was precipitated by the addition of ether to give yellow prisms, mp 193°-197° C. Recrystallization from a mixture of methanol and ether gave yellow prisms, mp 197°-198° C.

reactant | acetamidine hydrochloride | 58 mmole, 5.5 g | Cl.C(C)(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 10 mmole, 3.5 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
solvent | methanol | 140 ml | CO | CH4O
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | 1 M | CO | CH4O
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanol | 4.12 M | CO | CH4O
product | 9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)C)C=C1 | C19H13Cl2N3
